US06660744B1
Commercially available 3-[(2-hydroxyethyl)amino]propanoic acid (76 mg, 0.571 mmol) was dissolved in dioxane/water (1.5 mL/1.5 mL) then added sodium carbonate (91 mg, 0.886 mmol) and di-tert-butyldicarbonate (137 mg, 0.628 mmol). The reaction mixture was stirred at room temperature for 2 days, filtered and concentrated under reduced pressure to yield 3-[(tert-butoxycarbonyl)(2-hydroxyethyl)amino]propanoic acid as a colorless oil (135 mg, 0.579 mmol). 1H NMR(d6-DMSO): δ 1.40 (s, 9H); 2.36 (br s, 2H); 3.27 (br s, 3H); 3.46 (br s, 2H); 3.64 (br s, 2H); 5.71 (br s, 1H).

reactant | 3-[(2-hydroxyethyl)amino]propanoic acid | 0.571 mmol, 76 mg | OCCNCCC(=O)O | C5H11NO3
reactant | sodium carbonate | 0.886 mmol, 91 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyldicarbonate | 0.628 mmol, 137 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane water | 1.5 mL | O1CCOCC1.O
product | 3-[(tert-butoxycarbonyl)(2-hydroxyethyl)amino]propanoic acid | 0.579 mmol, 135 mg | C(C)(C)(C)OC(=O)N(CCC(=O)O)CCO | C10H19NO5
